US08242260B2
Bromine was added to a cooled solution of 4-(2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)pyrimidine (1.36 g, 4.30 mmol) in DCM at 0° C. followed by saturated aqueous Na2CO3 solution (16 mL, 4.30 mmol). The reaction mixture was stirred for 3 hours at room temperature. After the reaction was judged complete by LCMS analysis, the reaction mixture was allowed to stand and partition. The resulting layers were separated and the aqueous layer was extracted with EtOAc (2×). The combine organic layers were washed with brine, dried (Na2SO4), and concentrated. The resulting residue was by flash chromatography using an EtOAc-hexanes gradient (20-80%) to give 4-(5-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)pyrimidine (1.07 g, 2.71 mmol, 63%) as a yellow oil: LCMS(m/z): 395.0 (MH+), tR=1.09 minutes; 1H NMR (400 MHz, CDCl3) δ 0.00 (s, 9H) 0.80-1.50 (m, 4H) 2.06-2.25 (m, 1H) 3.49-3.65 (m, 2H) 6.05 (s, 2H) 7.95-8.07 (m, 1H) 8.82-8.94 (m, 1H) 9.27-9.34 (m, 1H).

reactant | Bromine | BrBr | Br2
reactant | 4-(2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)pyrimidine | 4.30 mmol, 1.36 g | C1(CC1)C=1N(C=C(N1)C1=NC=NC=C1)COCC[Si](C)(C)C | C16H24N4OSi
reactant | Na2CO3 | 4.30 mmol, 16 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(5-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)pyrimidine | 2.71 mmol, 1.07 g, 63% | BrC1=C(N=C(N1COCC[Si](C)(C)C)C1CC1)C1=NC=NC=C1 | C16H23BrN4OSi
